US07125896B2
b) 2-(Cyclopropylmethoxy)-5-bromopyridine
Prepared from 2,5-dibromopyridine and cyclopropylmethanol by the method of Example 10 (b).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | cyclopropylmethanol | C1(CC1)CO | C4H8O
product | 2-(Cyclopropylmethoxy)-5-bromopyridine | C1(CC1)COC1=NC=C(C=C1)Br | C9H10BrNO
